US07132572B2
A mixture of 2-bromo-9,9-diethylfluorene (2.44 g, 8.10 mmol), diphenylamine (1.43 g, 8.5 mmol), tris(dibenzylideneacetone)dipalladium (0.018 g, 0.25 mmol %), rac-BINAP (0.037 g, 0.75 mmol %), and sodium t-butoxide (1.08 g, 11.34 mmol) in dry toluene (100 ml) was heated at the refluxing temperature of the solvent for 8–10 h under an atmospheric pressure of nitrogen. After cooling the reaction mixture to room temperature, it was diluted with diethylether (60 ml), washed with brine (40 ml) and water. Organic layer was dried over sodium sulfate and concentrated in vacuuo. The crude product was purified by column chromatography (silica gel, hexane-toluene/9:1 as eluent, Rf=0.6 on thin layer chromatography using hexane-toluene/4:1 as eluent) to give 9,9-diethyl-2-diphenylaminofluorene (3.1 g) as a white amorphous low melting solid in a yield of 98%.

reactant | 2-bromo-9,9-diethylfluorene | 8.10 mmol, 2.44 g | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(CC)CC | C17H17Br
reactant | diphenylamine | 8.5 mmol, 1.43 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | sodium t-butoxide | 11.34 mmol, 1.08 g | CC(C)([O-])C.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethylether | 60 ml | C(C)OCC | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.25 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | rac-BINAP | 0.75 mmol, 0.037 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 9,9-diethyl-2-diphenylaminofluorene | 3.1 g, yield of 98% | C(C)C1(C2=CC=CC=C2C=2C=CC(=CC12)N(C1=CC=CC=C1)C1=CC=CC=C1)CC | C29H27N
